US04977155
b. 6-Azido-7-chloro-2,3-dihydroxy-5-nitroquinoxaline
15 ml 89% nitric acid was ice-cooled and then gradually added 1 g (4,2 mmol) 6-azido-7-chloro-2,3-dihydroxyquinoxaline. After stirring at 0° C. for 15 min, the reaction mixture was poured into 100 ml ice-water. The crude product was recrystallized (acetone-methanol-water) to give 0,95 g (80%) 6-azido-7-chloro-2,3-dihydroxy-5-nitroquinooxaline. IR (KBr): 2450 cm1 (N3) NMR (DMSO-d6): 12.3 (2H, broad s), 7.07 (1H,s).

reactant | nitric acid | 15 ml | [N+](=O)(O)[O-] | HNO3
reactant | 6-azido-7-chloro-2,3-dihydroxyquinoxaline | 4,2 mmol, 1 g | N(=[N+]=[N-])C=1C=C2N=C(C(=NC2=CC1Cl)O)O | C8H4ClN5O2
reactant | KBr | [K+].[Br-]
product | 6-Azido-7-chloro-2,3-dihydroxy-5-nitroquinoxaline | N(=[N+]=[N-])C=1C(=C2N=C(C(=NC2=CC1Cl)O)O)[N+](=O)[O-] | C8H3ClN6O4
